US06174881B1
A solution of 10.5 g of 2-amino-7-trifluoromethyl-5-phenyl-3H-1,4-benzodiazepine (K. Meguro, H. Tawada & Y. Kuwada, Yakugaku Zasshi, 1973, 93, 1253-1262) and 4.84 g of 1,3-dichloroacetone in 220 ml of dioxan was treated with 2.72 g of anhydrous sodium hydrogen carbonate and stirred at 98° C. for 16 h. After cooling the inorganic salts were filtered off, the filtrate was treated with 0.75 g of p-toluenesulphonic acid and stirred at 98° C. for 2 h. 60 ml of 1N aqueous sodium hydroxide solution were added to this solution and the mixture was stirred at 80° C. for 3 h. After cooling the mixture was concentrated in a vacuum. The residue was taken up in chloroform and water and the aqueous phase was extracted a further four times with chloroform. The chloroform was evaporated in a vacuum. The residue was recrystallized twice from ethyl acetate. There were obtained 3.15 g of 8-trifluoromethyl-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol of m.p. 193-194° C., which was converted into the hydrochloride of m.p. 252-254° C.

reactant | 2-amino-7-trifluoromethyl-5-phenyl-3H-1,4-benzodiazepine | 10.5 g | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)C(F)(F)F | C16H12F3N3
reactant | 1,3-dichloroacetone | 4.84 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium hydrogen carbonate | 2.72 g | C(O)([O-])=O.[Na+]
solvent | dioxan | 220 ml | O1CCOCC1 | C4H8O2
product | 8-trifluoromethyl-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol | 3.15 g | FC(C=1C=CC2=C(C(=NCC=3N2C=C(N3)CO)C3=CC=CC=C3)C1)(F)F | C19H14F3N3O
